US09382188B2
C) cyclopropyl(2-((methoxymethoxy)methyl)pyridin-4-yl)methanone
Under a nitrogen atmosphere, to a solution of 2-((methoxymethoxy)methyl)isonicotinonitrile (1.87 g) in THF (20 mL) was added 0.70 M cyclopropylmagnesium bromide (30 mL) at 0° C., and the mixture was stirred at 0° C. for 1 hr. To the reaction mixture was added 1N hydrochloric acid (50 mL) at 0° C., and the mixture was stirred at room temperature for 15 min. The reaction mixture was neutralized with aqueous sodium hydroxide solution, and extracted with ethyl acetate. The extract was washed with water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (1.20 g) as an orange oil.

reactant | 2-((methoxymethoxy)methyl)isonicotinonitrile | 1.87 g | COCOCC=1C=C(C#N)C=CN1 | C9H10N2O2
reactant | cyclopropylmagnesium bromide | 0.70 M, 30 mL | C1(CC1)[Mg]Br
reactant | hydrochloric acid | 1N, 50 mL | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | cyclopropyl(2-((methoxymethoxy)methyl)pyridin-4-yl)methanone | 1.20 g | C1(CC1)C(=O)C1=CC(=NC=C1)COCOC | C12H15NO3
